US08802864B2
b) 5-bromo-3-methyl-1-benzofuran
A solution of [(2-acetyl-4-bromophenyl)oxy]acetic acid (1.648 mmol) in acetic acid (2.075 mL) was treated with sodium acetate (9.89 mmol) and acetic anhydride (21.42 mmol). The reaction solution was heated with stirring to 140° C. for 3.5 h. Analysis by LCMS showed a major product that did not ionize, and consumption of starting material. The mixture was diluted with water and ethyl acetate and was washed with 1N aq NaOH until the aqueous phase was basic (pH˜12). The mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated to an oil in vacuo. No further purification was carried out. 1H NMR (400 MHz, chloroform-d) δ ppm 7.67 (d, J=1.77 Hz, 1H) 7.38-7.45 (m, 2H) 7.32-7.38 (m, 1H) 2.24 (d, J=1.26 Hz, 3H).

reactant | [(2-acetyl-4-bromophenyl)oxy]acetic acid | 1.648 mmol | C(C)(=O)C1=C(C=CC(=C1)Br)OCC(=O)O | C10H9BrO4
reactant | sodium acetate | 9.89 mmol | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 21.42 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2.075 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-3-methyl-1-benzofuran | BrC=1C=CC2=C(C(=CO2)C)C1 | C9H7BrO
